US08076358B2
Step B: [1-Cyano-2-(tetrahydro-pyran-4-yl)-ethyl]-phosphonic acid diethyl ester
To a solution of [1-cyano-2-(tetrahydro-pyran-4-yl)-vinyl]-phosphonic acid diethyl ester (7.45 g, 27.1 mmol) in methanol (200 mL) was added sodium borohydride (5 g, 135 mmol, 5 pellets), portion wise over 1.5 hours. The resulting mixture was stirred an additional 2 hours. The solvent was evaporated in vacuo to yield an oil, to which was added 0.1N NaOH and ethyl acetate. The layers were separated, and the organic layer was dried with MgSO4 and filtered. The solvent was removed to yield an oil which was purified via silica column chromatography (50% EtOAc/heptane) to yield an oil.

reactant | [1-cyano-2-(tetrahydro-pyran-4-yl)-vinyl]-phosphonic acid diethyl ester | 27.1 mmol, 7.45 g | C(C)OP(OCC)(=O)C(=CC1CCOCC1)C#N | C12H20NO4P
reactant | sodium borohydride | 135 mmol, 5 g | [BH4-].[Na+]
reactant | NaOH | 0.1N | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 200 mL | CO | CH4O
product | [1-Cyano-2-(tetrahydro-pyran-4-yl)-ethyl]-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C(CC1CCOCC1)C#N | C12H22NO4P
